US07022851B2
3-Methyl-1-(2-nitro-benzensulfonyl)-4-[(thymin-1-yl)acetyl]-piperazin-2-one
To a solution of (thymin-1-yl)-acetic acid (55 mg, 0.30 mmol), 1-(2-nitro-benzenesulfonyl)-3-methyl-piperazin-2-one HCl salt (100 mg, 0.30 mmol), and PyBOP (156 mg, 0.45 mmol) in DMF (1 mL) was added N,N-diisopropylethylamine (0.08 mL) at room temperature. After stirring for additional 2 h at 40° C., the reaction mixture was concentrated under reduced pressure. The residue was dissolved in dichloromethane and washed with water. The organic layer was dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated in reduced pressure and the residue was purified by column chromatography to give the titled compound (100 mg, 72%). 1H NMR (500 MHz; DMSO-d6) δ 11.31 (s, 1H), 8.33 (d, 1H), 8.10 (d, 1H), 8.04˜7.93 (m, 2H), 7.35 (s, 1H), 4.85˜4.60 (m, 2.5H), 4.55˜4.40 (m, 0.5H), 4.20˜4.10 (m, 0.5H), 4.05˜3.90 (m, 1.5H), 3.78˜3.60 (m, 1H), 3.30 (m, 1H), 1.74 (s, 3H), 1.42 (d, 1H), 1.27 (d, 2H).

reactant | (thymin-1-yl)-acetic acid | 0.30 mmol, 55 mg | N1(C(=O)NC(=O)C(C)=C1)CC(=O)O | C7H8N2O4
reactant | 1-(2-nitro-benzenesulfonyl)-3-methyl-piperazin-2-one HCl salt | 0.30 mmol, 100 mg | Cl.[N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)N1C(C(NCC1)C)=O
reactant | PyBOP | 0.45 mmol, 156 mg | C1CCN(C1)[P+](N2CCCC2)(N3CCCC3)ON4C5=C(C=CC=C5)N=N4.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.08 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 3-Methyl-1-(2-nitro-benzensulfonyl)-4-[(thymin-1-yl)acetyl]-piperazin-2-one | 100 mg, 72% | CC1C(N(CCN1C(CN1C(=O)NC(=O)C(C)=C1)=O)S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])=O | C18H19N5O8S
